US08106077B2
6-{4-[5-Cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester
Nitrogen is bubbled through a solution of [5-cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-yl]-methanol (0.23 g, 0.80 mmol) and 6-(4-hydroxy-2-methyl-phenyl)-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester (0.2 g, 0.62 mmol) in toluene (10 mL) for 10 minutes. Tri-n-butyl phosphine (0.21 mL, 1.05 mmol) is added. Nitrogen is bubbled for an additional 10 min followed by addition of 1,1′-(azocarbonyl)-dipiperidine (0.27 g, 1.05 mmol). The reaction is stirred at room temperature for 18 h. The crude reaction is concentrated onto silica and chromatographed (40 g SiO2, 0% to 40% EtOAc/Hexanes) to yield the title compound (0.11 g, 30%). LC-ES/MS m/e 590.0 (M+1).

reactant | [5-cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-yl]-methanol | 0.80 mmol, 0.23 g | C1(CC1)C1=C(N(N=N1)C1=C(C=CC=C1Cl)Cl)CO | C12H11Cl2N3O
reactant | 6-(4-hydroxy-2-methyl-phenyl)-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester | 0.62 mmol, 0.2 g | COC(=O)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C=C1)O)C)C(C)C | C19H20N2O3
reactant | Tri-n-butyl phosphine | 1.05 mmol, 0.21 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-{4-[5-Cyclopropyl-3-(2,6-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-1-isopropyl-1H-indazole-3-carboxylic acid methyl ester | 0.11 g, 30% | COC(=O)C1=NN(C2=CC(=CC=C12)C1=C(C=C(C=C1)OCC=1N(N=NC1C1CC1)C1=C(C=CC=C1Cl)Cl)C)C(C)C | C31H29Cl2N5O3
